US05453443
Step 1: 4-Bromo-3-methoxymethoxyphenol
To a solution of 4-bromoresorcinol (1.5 g) in DMF (15 mL) at 0° C. was added Nail (0.19 g). After 20 min., chloromethylmethyl ether (0.636 g) was added in and stirred for 2 hrs. Saturated aq. NAHCO3 was added and the product was extracted in EtOAc, dried over Na2SO4, and purified by flash chromatography on silica gel with EtOAc in hexanes (1:6).

reactant | 4-bromoresorcinol | 1.5 g | BrC1=C(C=C(O)C=C1)O | C6H5BrO2
reactant | chloromethylmethyl ether | 0.636 g | ClCOC | C2H5ClO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-3-methoxymethoxyphenol | BrC1=C(C=C(C=C1)O)OCOC | C8H9BrO3
